US04241097
To a stirred solution of 120 grams of catechol and 10 grams of Aliquat® 336 (brand of tricaprylmethylammonium chloride, of General Mills Chemical Company of Minneapolis, Minnesota) at 80° C. is added ethyl chloroacetate (87 grams, 1 mole) over a one hour period. The reaction mass is stirred for one hour and then cooled. 1000 ml of dilute (5%) hydrochloric acid is added with stirring. The aqueous layer is discarded. The organic layer is washed twice with a minimum amount of water. The toluene is distilled off under reduced pressure to afford 119 grams of crude product. Recrystallization from ethanol afforded 92 grams of 1,4-benzodioxan-2-one.

reactant | catechol | 120 grams | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | ethyl chloroacetate | 1 mole, 87 grams | ClCC(=O)OCC | C4H7ClO2
reactant | hydrochloric acid | Cl | ClH
catalyst | Aliquat® 336 | 10 grams | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 1,4-benzodioxan-2-one | 92 grams | O1C(COC2=C1C=CC=C2)=O | C8H6O3
